US08530665B2
1-(3,5-Dichloropyridin-4-yl)ethanol
To a 3-neck 12 L round bottom flask add tetrahydrofuran (THF, 3 L) and diisopropylamine (DIPA, 315 mL, 2.24 mol) and cool to −78° C. Add slowly n-butyllithium (1.6 M in hexanes, 1400 mL, 2.24 mol). After the addition is complete and the temperature has settled at −78° C. slowly add a solution of 3,5-dichloropyridine (296.7 g, 2.00 mol) which immediately forms a yellow solution that changes to a rust colored suspension. After the addition is complete and the temperature has settled at −78° C. slowly add acetaldehyde (230 mL, 4.05 mol) in THF (600 mL). Continue stirring at −78° C. After 3 hours, remove the dry ice bath and begin quenching the reaction by the dropwise addition of saturated aqueous ammonium chloride (1 L). Allow the reaction to warm to room temperature (RT) overnight with stirring. Dilute the mixture with methyl-tert-butylether (MTBE, 2 L), saturated aqueous ammonium chloride (1 L) and water (2 L). Partition and wash organics with saturated aqueous sodium chloride (brine). Extract the aqueous phase with MTBE (1.5 L). Combine the organic layers, dry over sodium sulfate, filter and concentrate in vacuo. Purify the residue by silica gel chromatography [25% ethylacetate (EA) in hexanes] to give the title compound as a red oil. Yield: 352 g (90%). MS (ES) m/z 192 [M+1]+.

reactant | diisopropylamine | 2.24 mol, 315 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.24 mol, 1.6 M, 1400 mL | C(CCC)[Li]
reactant | 3,5-dichloropyridine | 2.00 mol, 296.7 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | acetaldehyde | 4.05 mol, 230 mL | C(C)=O | C2H4O
solvent | THF | 600 mL | O1CCCC1 | C4H8O
solvent | methyl-tert-butylether | 2 L | COC(C)(C)C | C5H12O
solvent | ammonium chloride | 1 L | [Cl-].[NH4+]
solvent | water | 2 L | O | H2O
solvent | ammonium chloride | 1 L | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
product | 1-(3,5-Dichloropyridin-4-yl)ethanol | ClC=1C=NC=C(C1C(C)O)Cl | C7H7Cl2NO
